US07517889B2
A mixture of 4,6-dichloro-2-methylsulfanyl-pyrimidine (2.66 g, 13.6 mmol), 2-(2,4-dichloro-phenyl)-ethylamine (2.26 mL, 15 mmol) and sodium bicarbonate (2.29 g, 27.2 mmol) in EtOH (35 mL) is heated to 85° C. for 1 hour and poured into water (100 mL). The solid precipitate is collected by filtration and dissolved in hot EtOH (75 mL). After cooling overnight the crystals that formed are collected by filtration and dried to afford (6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (3.43 g, 72%) as a solid.

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine | 13.6 mmol, 2.66 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | 2-(2,4-dichloro-phenyl)-ethylamine | 15 mmol, 2.26 mL | ClC1=C(C=CC(=C1)Cl)CCN | C8H9Cl2N
reactant | sodium bicarbonate | 27.2 mmol, 2.29 g | C([O-])(O)=O.[Na+]
reactant | water | 100 mL | O | H2O
solvent | EtOH | 35 mL | CCO | C2H6O
product | (6-chloro-2-methylsulfanyl-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 3.43 g, 72% | ClC1=CC(=NC(=N1)SC)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3S
